US07759376B2
Step 2. Preparation of methyl 4′-amino-3-chlorobiphenyl-4-carboxylate
Iron powder (0.99 g, 17.7 mmol) was added to a solution of methyl 3-chloro-4′-nitrobiphenyl-4-carboxylate (0.64 g, 1.8 mmol) in ethanol (15 mL). Concentrated HCl (0.88 mL, 1.8 mmol) was added, and the mixture was heated at reflux for 3 h. Upon cooling to rt, the mixture was filtered through a pad of Celite®, and the filtrate was concentrated in vacuo. The material was purified by column chromatography (33% EtOAc in hexanes), yielding 0.453 g (98%) of the title compound. LC/MS m/z 262.4 (Mob; retention time 2.39 min. 1H NMR (400 MHz, CD2Cl2) δ 3.99 (s, 3H), 6.78 (d, 2H), 7.41-7.46 (m, 3H), 7.62 (s, 1H), 7.88 (d, 1H).

reactant | methyl 3-chloro-4′-nitrobiphenyl-4-carboxylate | 1.8 mmol, 0.64 g | ClC=1C=C(C=CC1C(=O)OC)C1=CC=C(C=C1)[N+](=O)[O-] | C14H10ClNO4
reactant | HCl | 1.8 mmol, 0.88 mL | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Iron | 17.7 mmol, 0.99 g | [Fe] | Fe
product | methyl 4′-amino-3-chlorobiphenyl-4-carboxylate | 0.453 g, 98% | NC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)Cl | C14H12ClNO2
